US04978665
2-ethyl-4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-ethoxy-3(2H)pyridazinone (Compound No. 50)
300 mg of 2-ethyl-4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone (Compound No. 24) prepared in Example 4, was dissolved in 6 ml of dried ethanol, and 160 mg of sodium ethoxide was added thereto. The mixture was gently refluxed under stirring for 10 minutes. After cooling, ice water was poured into the reaction solution, and then most ethanol was distilled off under reduced pressure. The residue was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid, water and a saturated sodium chloride aqueous solution in this order and dried over sodium sulfate. The solvent was distilled off and the residual oily substance thereby obtained was purified by silica gel thin layer chromatography by using benzene:ethyl acetate (7:3 v/v) as the developer, to obtain 300 mg of the above identified compound. The physical properties and the spectrum data of NMR, IR and MS of the compound completely agreed to those of the compound prepared by the above method (1).

reactant | 2-ethyl-4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone | 300 mg | C(C)N1N=C(C(=C(C1=O)Cl)NCC1=CC(=C(C=C1)OC)OCCC)[N+](=O)[O-] | C17H21ClN4O5
reactant | sodium ethoxide | 160 mg | [O-]CC.[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2-ethyl-4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-ethoxy-3(2H)pyridazinone | C(C)N1N=C(C(=C(C1=O)Cl)NCC1=CC(=C(C=C1)OC)OCCC)OCC | C19H26ClN3O4
